US06933311B2
N-(4-bromobenzyl)-2-(5-isoquinolinyl)butanamide
The title compound was prepared using the procedure described in Example 222B using 4-bromobenzylamine and 2-(5-isoquinolinyl)butanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 385, 383 (M+H)+; MS (ESI−) m/z 383, 381 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 0.91 (t, J 7.5, 3H), 1.81 (m, 1H), 2.19 (m, 1H), 3.39 (m, 1H), 4.22 (m, 2H), 7.13 (d, J 8.5, 2H), 7.44 (m, 3H), 7.57 (t, J 7.8, 1H), 8.00 (m, 1H), 8.21 (d, J 7.1, 1H), 8.41 (d, J 8.1, 1H), 8.72 (s, 1H), 8.93 (t, J 6.8, 1H), 9.81 (s, 1H), 10.16 (br s, 1H); Anal. Calcd for C20H19BrN2O: C, 62.67; H, 5.00. Found: C, 62.52; H, 4.95.

reactant | 4-bromobenzylamine | BrC1=CC=C(CN)C=C1 | C7H8BrN
reactant | 2-(5-isoquinolinyl)butanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)CC | C13H13NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-(4-bromobenzyl)-2-(5-isoquinolinyl)butanamide | BrC1=CC=C(CNC(C(CC)C2=C3C=CN=CC3=CC=C2)=O)C=C1 | C20H19BrN2O
